US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.6318 g, 1.145 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). This reaction mixture was left to stir overnight. The volatiles were evaporated, and the resulting residue was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a beige solid (0.3182 g, 59%). LCMS: (M+H)+=469.2.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 1.145 mmol, 0.6318 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N(C)CC=1OC=CC1 | C25H34ClFN6O5
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.3182 g, 59% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N(C)CC=1OC=CC1 | C20H26ClFN6O4
